US07875645B2
a) Butyl-[1-(2,6-difluoro-phenyl)-meth-(E)-ylidene]-amine
A mixture of 25.4 g (179 mmol) 2,6-difluorobenzaldehyde, 19.5 ml (197 mmol) N-butylamine and 0.68 g (3.57 mmol) p-toluenesulfonic acid in 120 ml toluene was heated in a Dean-Stark apparatus at reflux for 3 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed sequentially with water (twice) and with saturated brine. The organic phase was dried over Na2SO4, filtered, and concentrated in vacuo to afford the title compound 30.4 g (86%) as a brown oil which was used in the next step without further purification. MS (ISP): 198.3 ([M+H]+, 100%).

reactant | 2,6-difluorobenzaldehyde | 179 mmol, 25.4 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | N-butylamine | 197 mmol, 19.5 ml | C(CCC)N | C4H11N
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid | 3.57 mmol, 0.68 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Butyl-[1-(2,6-difluoro-phenyl)-meth-(E)-ylidene]-amine | 30.4 g, 86% | C(CCC)/N=C/C1=C(C=CC=C1F)F | C11H13F2N
